US06174458B1
To a mixture of 4-bromotoluene (743 mmol) and 500 ml of tetrahydrofuran (THF) was added dropwise 500 ml of a solution of n-butyl lithium (corresponding to 780 mmol) in hexane at −78° C. in 1.6 hours, and stirred at the same temperature for 1.5 hours. To this solution was added dropwise 200 ml of a solution of triisopropyl borate (1,486 mmol) in THF, the solution was gradually warmed up to room temperature, and then the solution was stirred overnight. After 750 ml of 7.3% hydrochloric acid was added and stirred for 30 min, the reaction solution was extracted twice with diethyl ether, washed thrice with water, and then dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was recrystallized from about 1,000 ml of toluene to give a white solid of 4-methylphenyl boric acid (545 mmol).

reactant | 4-bromotoluene | 743 mmol | BrC1=CC=C(C=C1)C | C7H7Br
reactant | n-butyl lithium | 780 mmol | C(CCC)[Li]
reactant | triisopropyl borate | 1,486 mmol | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 750 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | THF | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 4-methylphenyl boric acid | 545 mmol | CC1=CC=C(C=C1)OB(O)O | C7H9BO3
